* PEX produced on Wed Sep  9 10:47:51 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=1 and s=1
* NGSPICE file created from opamp_rtr_pex.ext - technology: ihp-sg13cmos5l

.subckt opamp_rtr_pex vdd inp vss inn ibias out
X0 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X1 vdd a_592_286# a_1392_382# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X2 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=62.7835p ps=0.25869m w=3.75u l=0.4u
X3 vss ibias a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X4 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=13.7666p ps=96.82u w=1.25u l=0.45u
X5 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X6 vss vss vss vss sg13_hv_nmos ad=0.85p pd=5.68u as=0.18235n ps=0.8465m w=2.5u l=0.45u
X7 ibias ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X8 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.18065n ps=0.47106m w=3.75u l=0.4u
X9 w_8388_2366# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X10 a_9288_5041# inp w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X11 a_9288_5041# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X12 a_592_2733# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X13 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X14 w_8388_2366# inn a_8488_4945# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X15 w_8388_2366# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X16 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X17 a_592_2733# inn a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X18 a_12881_4979# a_14767_4615# vss rhigh l=9u w=1u
X19 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X20 a_11355_6131# a_1392_382# a_1392_382# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X21 a_442_5111# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X22 a_8488_4945# inn w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X23 vss vss vss vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X24 vss vss vss rhigh l=9u w=1u
X25 a_1076_5541# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X26 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X27 a_12881_4251# a_1076_5541# vss rhigh l=9u w=1u
X28 vdd vdd vdd vdd sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X29 a_9288_5041# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X30 a_442_5111# a_592_286# a_3520_5051# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X31 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X32 a_1076_5541# a_1076_5541# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=34.7735p ps=0.10686m w=7.5u l=1u
X33 vdd a_592_286# a_5933_6071# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X34 a_12881_2795# a_14767_3159# vss rhigh l=9u w=1u
X35 a_442_5111# inn a_592_2733# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X36 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X37 vss vss vss rhigh l=9u w=1u
X38 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X39 vss ibias a_592_286# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X40 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X41 vss a_5933_6071# a_5933_6071# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X42 vdd a_592_2733# a_1076_5541# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X43 a_3520_5051# a_592_286# a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X44 vdd a_592_2733# a_1076_5541# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X45 a_9508_346# a_9508_346# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X46 vdd a_3520_5051# a_3520_5051# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X47 a_4818_4945# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X48 a_442_5111# inp a_1076_5541# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X49 vdd a_3520_5051# a_3520_5051# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X50 vdd vdd vdd vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X51 vss a_4818_4945# a_4818_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X52 a_442_5111# ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X53 w_8388_2366# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X54 a_5933_6071# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X55 a_1076_5541# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X56 a_4818_4945# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X57 a_442_5111# inp a_1076_5541# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X58 vss vss vss vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X59 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X60 vss a_5933_6071# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X61 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X62 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X63 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X64 a_9288_5041# a_9288_5041# a_9288_5041# vss sg13_hv_nmos ad=0.85p pd=5.68u as=17.3283p ps=85.93999u w=2.5u l=1u
X65 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X66 a_9288_5041# a_9288_5041# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=1u
X67 a_8488_4945# inn w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X68 a_8488_4945# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X69 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X70 vss vss vss vss sg13_hv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.45u
X71 a_12881_3523# a_9288_5041# vss rhigh l=9u w=1u
X72 vdd a_592_286# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X73 a_592_2733# inn a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X74 a_442_5111# inn a_592_2733# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X75 a_1392_382# a_1392_382# a_11355_6131# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X76 a_9288_5041# inp w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X77 vss a_5933_6071# a_6733_6167# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X78 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X79 a_1076_5541# a_6733_6167# a_9288_5041# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X80 vdd a_9508_346# a_9508_346# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X81 a_12881_4251# a_14767_4615# vss rhigh l=9u w=1u
X82 a_5933_6071# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X83 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X84 a_1076_5541# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X85 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X86 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X87 a_442_5111# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X88 a_9508_346# a_6733_6167# a_6733_6167# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X89 vss ibias ibias vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X90 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X91 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X92 vss a_4818_4945# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X93 a_4818_4945# a_592_286# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X94 a_11355_6131# a_11355_6131# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X95 a_592_2733# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X96 vss a_11355_6131# a_11355_6131# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X97 vss a_8488_4945# a_8488_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X98 a_9288_5041# a_6733_6167# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X99 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X100 vdd vdd vdd vdd sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X101 w_8388_2366# inn a_8488_4945# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X102 vss a_4818_4945# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X103 a_1076_5541# inp a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X104 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X105 a_1076_5541# a_1392_382# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X106 a_3520_5051# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X107 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X108 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X109 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X110 vdd a_592_286# w_8388_2366# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X111 vss a_8488_4945# a_9288_5041# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X112 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X113 vdd a_592_286# a_592_286# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X114 w_8388_2366# inp a_9288_5041# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X115 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X116 vdd a_592_2733# a_592_2733# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X117 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X118 vdd a_3520_5051# w_8388_2366# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X119 a_9288_5041# a_1392_382# a_1076_5541# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X120 a_1392_382# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X121 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X122 a_3520_5051# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X123 a_12881_4979# a_14767_5343# vss rhigh l=9u w=1u
X124 a_9288_5041# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X125 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X126 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X127 a_12881_2795# a_14767_2795# vss rhigh l=9u w=1u
X128 w_8388_2366# a_592_286# a_4818_4945# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X129 a_8488_4945# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X130 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X131 vdd a_592_2733# a_592_2733# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X132 vss a_8488_4945# a_9288_5041# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X133 a_12881_3523# a_14767_3159# vss rhigh l=9u w=1u
X134 vdd a_3520_5051# w_8388_2366# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X135 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.45u
X136 vdd vdd vdd vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X137 a_592_286# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X138 vss a_4818_4945# a_4818_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X139 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X140 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X141 a_592_286# ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X142 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X143 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X144 a_1076_5541# a_1076_5541# a_1076_5541# vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=1u
X145 vss a_8488_4945# a_8488_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X146 a_1076_5541# inp a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X147 a_6733_6167# a_6733_6167# a_9508_346# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X148 w_8388_2366# inp a_9288_5041# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X149 a_6733_6167# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X150 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
C0 out vss 0.25645p
C1 a_14767_2795# vss 0.10536p
C2 a_12881_2795# vss 2.09483f
C3 a_14767_3159# vss 2.09483f
C4 a_12881_3523# vss 2.09483f
C5 a_12881_4251# vss 2.09483f
C6 a_14767_4615# vss 2.09483f
C7 a_14767_5343# vss 0.1062p
C8 a_12881_4979# vss 2.09483f
.ends